US07659268B2
To a solution 1-(3-bromophenyl)cyclopropanecarboxylic acid (530 mg, 2.2 mmol) in methanol (5 mL) was added HCl (2.0 M in Et2O, 0.5 mL). The mixture was heated at 60° C. overnight. The solvent was evaporated and water (10 mL) was added to the residue. The mixture was neutralized with saturated NaHCO3 solution until pH 7-8. The mixture was extracted with CH2Cl2 (10 mL×2). The combined organics were washed with brine, dried over anhydrous Na2SO4, and concentrated in vacuo to afford methyl 1-(3-bromophenyl)cyclopropanecarboxylate (530 mg), which was used without further purification. ESI-MS m/z 255/257 (M+1)+. Retention time 1.68 minutes.

reactant | 1-(3-bromophenyl)cyclopropanecarboxylic acid | 2.2 mmol, 530 mg | BrC=1C=C(C=CC1)C1(CC1)C(=O)O | C10H9BrO2
reactant | HCl | 2.0 M, 0.5 mL | Cl | ClH
reactant | methanol | 5 mL | CO | CH4O
product | methyl 1-(3-bromophenyl)cyclopropanecarboxylate | 530 mg | BrC=1C=C(C=CC1)C1(CC1)C(=O)OC | C11H11BrO2
